US04686228
Phosphorous oxychloride (1.0 ml) was added to a stirred solution of dimethylacetamide (2.8 ml) in chloroform (10 ml) at room temperature. The mixture was stirred for 5 minutes, 2-cyano-4,5-dimethoxyaniline (1.78 g) added and the reaction stirred under reflux for 4 hours. The mixture was cooled, poured onto ice and extracted with chloroform and the organic phase discarded. The aqueous layer was basified (solid NaOH) extracted with chloroform, the combined extracts washed with water, dried (Na2SO4) and evaporated in vacuo. A sample of the brown oily residue (2 g) was crystallised from diisopropylether to give N,N-dimethyl-N'-(2-cyano-4,5-dimethoxyphenyl)acetamidine, m.p. 94°-96°.

reactant | Phosphorous oxychloride | 1.0 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | dimethylacetamide | 2.8 ml | CC(=O)N(C)C | C4H9NO
reactant | 2-cyano-4,5-dimethoxyaniline | 1.78 g | C(#N)C1=C(N)C=C(C(=C1)OC)OC | C9H10N2O2
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | N,N-dimethyl-N'-(2-cyano-4,5-dimethoxyphenyl)acetamidine | CN(C(C)=NC1=C(C=C(C(=C1)OC)OC)C#N)C | C13H17N3O2
